US06265434B1
Step A: 5-Bromo-tetrazolo[4.5-a]pyridine
2,5-Dibromopyridine (1.0 g, 4.2 mmol), sodium azide (412 mg, 6.3 mmol) and NH4Cl (339 mg, 6.3 mmol) were heated in 20 mL DMF to 100° C. for 16 h. The mixture was diluted with 150 mL EtOAc, washed with H2O (2×) and sat'd NaCl then dried over Na2SO4 and concentrated. Flash chromatography (30 g silica, 2/1 hexane/EtOAc eluant) afforded 212 mg (25%) of the title compound.

reactant | 2,5-Dibromopyridine | 4.2 mmol, 1.0 g | BrC1=NC=C(C=C1)Br | C5H3Br2N
reactant | sodium azide | 6.3 mmol, 412 mg | [N-]=[N+]=[N-].[Na+]
reactant | NH4Cl | 6.3 mmol, 339 mg | [NH4+].[Cl-]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 150 mL | CCOC(=O)C | C4H8O2
product | 5-Bromo-tetrazolo[4.5-a]pyridine | 212 mg, 25% | BrC1=CC=CC=2N1N=NN2 | C5H3BrN4
